US07115602B2
Ethyl 3-(acetylamino)-2-oxopentanoate
9.2 g (63.4 mmol) 2-(Acetylamino)butanoic acid are suspended in 120 ml tetra-hydrofurane and heated to reflux together with 15.0 g (190 mmol) pyridine and a bit of N,N-dimethylaminopyridine. While heating at reflux, 17.3 g (127 mmol) ethyl chloro(oxo)acetate are added dropwise. The reaction mixture is heated at reflux until no more evolution of gas can be observed. After cooling down to room temperature, the reaction mixture is added to ice water and the organic phase extracted with ethyl acetate. The dried organic phase is evaporated to dryness in vacuo, dissolved in ethanol and the solution directly used for the next reaction.

reactant | 2-(Acetylamino)butanoic acid | 63.4 mmol, 9.2 g | C(C)(=O)NC(C(=O)O)CC | C6H11NO3
reactant | pyridine | 190 mmol, 15.0 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloro(oxo)acetate | 127 mmol, 17.3 g | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | tetra-hydrofurane | 120 ml | O1CCCC1 | C4H8O
product | Ethyl 3-(acetylamino)-2-oxopentanoate | C(C)(=O)NC(C(C(=O)OCC)=O)CC | C9H15NO4
